US07317125B2
Preparation of benzoic acid N′-[2-(5-fluoro-3′-isopropyl-biphenyl-2-yloxy)-acetyl]-N′-isopropyl-hydrazide
A solution of benzoic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide (50 mg, 0.122 mmol) in DME (3 ml)/2M Na2CO3 (0.215 ml, 0.427 mmol) was treated with 3-isopropylbenzylboronic acid (30 mg, 0.183 mmol) and Pd[PPh3]4 (28 mg, 0.0244 mmol) for 12 hours at 90° C. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude was absorbed on silica and purified on a silica gel column with 30% ethyl acetate/hexanes to afford the product as a white solid. (34 mg, 62%). MS m/e 449.30 (M+H+)

reactant | benzoic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 0.122 mmol, 50 mg | BrC1=C(OCC(=O)N(NC(C2=CC=CC=C2)=O)C(C)C)C=CC(=C1)F | C18H18BrFN2O3
reactant | Na2CO3 | 0.427 mmol, 2M, 0.215 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-isopropylbenzylboronic acid | 0.183 mmol, 30 mg | C(C)(C)C=1C=C(CB(O)O)C=CC1 | C10H15BO2
solvent | DME | 3 ml | COCCOC | C4H10O2
product | benzoic acid N′-[2-(5-fluoro-3′-isopropyl-biphenyl-2-yloxy)-acetyl]-N′-isopropyl-hydrazide | FC=1C=CC(=C(C1)C1=CC(=CC=C1)C(C)C)OCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C27H29FN2O3
